US08809342B2
N-(1-(4-iodophenyl)-3-methylbutyl)-2-methylpropane-2-sulfinamide (1.36 g, 3.45 mmol) was dissolved in methanol (17.2 mL). 4M HCl in dioxane (4.31 mL, 17.2 mmol) was added and the reaction was stirred at room temperature for 1 hour. The reaction was concentrated and the resulting solid was triturated with ether and dried under vacuum to provide 1-(4-iodophenyl)-3-methylbutan-1-amine hydrochloride (1.1 g, 100%) as a white solid. 1H NMR (400 MHz, CD3OD, δ): 7.80-7.84 (m, 2H), 7.20-7.24 (m, 2H), 4.25-4.31 (m, 1H), 1.83-1.92 (m, 1H), 1.71-1.79 (m, 1H), 1.34-1.42 (m, 1H), 0.92 (dd, J=12.19, 6.54 Hz, 6H).

reactant | N-(1-(4-iodophenyl)-3-methylbutyl)-2-methylpropane-2-sulfinamide | 3.45 mmol, 1.36 g | IC1=CC=C(C=C1)C(CC(C)C)NS(=O)C(C)(C)C | C15H24INOS
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 17.2 mmol, 4.31 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 17.2 mL | CO | CH4O
product | 1-(4-iodophenyl)-3-methylbutan-1-amine hydrochloride | 1.1 g, 100% | Cl.IC1=CC=C(C=C1)C(CC(C)C)N | InChI=1S/C11H16IN.ClH/c1-8(2)7-11(13)9-3-5-10(12)6-4-9;/h3-6,8,11H,7,13H2,1-2H3;1H
